US05594021
2-(2-methoxybenzyl)-benzo[b]thiophene-3-sulfonyl chloride was prepared by the method of Example 40B with sulfuryl chloride (8.4 mmoles, 0.7 ml), DMF (9.8 mmoles, 0.8 ml) and 2-(2-methoxybenzyl)benzo[b]thiophene (4.9 mmoles, 1.25 g). Flash chromatography (2% ethyl acetate/hexanes) provided 0.94 g (54%) of a yellow solid.

reactant | sulfuryl chloride | 8.4 mmoles, 0.7 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | DMF | 9.8 mmoles, 0.8 ml | CN(C)C=O | C3H7NO
reactant | 2-(2-methoxybenzyl)benzo[b]thiophene | 4.9 mmoles, 1.25 g | COC1=C(CC2=CC3=C(S2)C=CC=C3)C=CC=C1 | C16H14OS
product | 2-(2-methoxybenzyl)-benzo[b]thiophene-3-sulfonyl chloride | COC1=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=CC=C1 | C16H13ClO3S2
